US04005208
Refluxing 4.0 g. of 9-acetoxyxanthene and 2.05 g. of 3-amino-1-ethylpyrrolidine in 175 ml. of dry toluene for 24 hours, then working up as in Example 1 gives N-(N-ethyl-3-pyrrolidinyl)-9 -xanthenylamine.

reactant | 9-acetoxyxanthene | C(C)(=O)OC1C2=CC=CC=C2OC=2C=CC=CC12 | C15H12O3
reactant | 3-amino-1-ethylpyrrolidine | NC1CN(CC1)CC | C6H14N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(N-ethyl-3-pyrrolidinyl)-9 -xanthenylamine | C(C)N1CC(CC1)NC1C2=CC=CC=C2OC=2C=CC=CC12 | C19H22N2O
